US06579879B2
Step B: 6-(N-Benzylindole-5-sulfonyl)-2H-pyridazin-3-one.
A mixture of 3-methoxy-6-(N-benzylindole-5-sulfonyl)-2H-pyridazine (0.64 mmol, 245 mg), conc. HCl (0.5 mL), and dioxane (3 mL) was heated at 100° C. for 2 hours. The reaction mixture was cooled and evaporated to dryness. Water (10 mL) was added to the residue and the resulting solid, 6-(N-benzylindole-5-sulfonyl)-2H-pyridazin-3-one, was collected (55%, 102 mg).

reactant | 3-methoxy-6-(N-benzylindole-5-sulfonyl)-2H-pyridazine | 0.64 mmol, 245 mg | COC=1NNC(=CC1)S(=O)(=O)C=1C=C2C=CN(C2=CC1)CC1=CC=CC=C1 | C20H19N3O3S
reactant | HCl | 0.5 mL | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 6-(N-Benzylindole-5-sulfonyl)-2H-pyridazin-3-one | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)S(=O)(=O)C=1C=CC(NN1)=O | C19H15N3O3S
